US05344835
3-(Diphenylmethoxymethyl)-1-(3-methoxyphenethyl)piperidine
A mixture of 3-(diphenylmethoxymethyl)piperidine (1.40 g, 5.0 mmol--see Preparation 1), 3-methoxyphenethyl bromide (1.08 g, 5.0 mmol), sodium carbonate (1.08 g) and sodium iodide (0.10 g) in acetonitrile (30 ml) was heated under reflux for 18 hours, diluted with ethyl acetate and water and the layers separated. The organic layer was washed with water, dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0-3% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (1.12 g) as a colourless oil which was characterised containing a third of an equivalent of water.

reactant | 3-(diphenylmethoxymethyl)piperidine | 5.0 mmol, 1.40 g | C1(=CC=CC=C1)C(OCC1CNCCC1)C1=CC=CC=C1 | C19H23NO
reactant | 3-methoxyphenethyl bromide | 5.0 mmol, 1.08 g | COC=1C=C(CCBr)C=CC1 | C9H11BrO
reactant | sodium carbonate | 1.08 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.10 g | [I-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(Diphenylmethoxymethyl)-1-(3-methoxyphenethyl)piperidine | 1.12 g | C1(=CC=CC=C1)C(OCC1CN(CCC1)CCC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C28H33NO2
